US08049016B2
Synthesis of (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 212-213° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.31 (br s, 2H), 7.18-7.07 (m, 3H), 4.57 (d, J=16.3 Hz, 1H), 4.39 (d, J=16.3 Hz, 1H), 4.22 (dd, J=10.0, 9.1 Hz, 1H), 3.87-3.79 (m, 1H), 3.58 (dd, J=10.0, 6.6 Hz, 1H), 2.46 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); MS (ES+) m/z 366.9 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC=1C=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C(C1)F | C16H15F2N3O3S
product | (R)-2-(3-(3,5-difluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC=1C=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)N)=O)C=C(C1)F | C16H16F2N4O2S
